US05051420
1-Benzyl-2-[[4-(1H-imidazol-1-yl)-1,2,5-thiadiazol-3-yloxy]methyl]pyrrolidine
Following the procedures of Example 1, the title compound is prepared from 3-chloro-4-(1H-imidazol-1-yl)-1,2,5-thiadiazole and 1-benzyl-2-(hydroxymethyl)pyrrolidine.

reactant | 3-chloro-4-(1H-imidazol-1-yl)-1,2,5-thiadiazole | ClC1=NSN=C1N1C=NC=C1 | C5H3ClN4S
reactant | 1-benzyl-2-(hydroxymethyl)pyrrolidine | C(C1=CC=CC=C1)N1C(CCC1)CO | C12H17NO
product | 1-Benzyl-2-[[4-(1H-imidazol-1-yl)-1,2,5-thiadiazol-3-yloxy]methyl]pyrrolidine | C(C1=CC=CC=C1)N1C(CCC1)COC1=NSN=C1N1C=NC=C1 | C17H19N5OS
